US06514968B1
Preparation 21 8-Fluoro-9-(4-fluorobenzyl)-9H-carbazol-4-ol
Pyridinium bromide perbromide (0.0.860 g, 0.27 mmol) is added to a solution of 8-fluoro-9-(4-fluorobenzyl)-1,2,3,9-tetrahydro-4H-carbazol-4-one in THF (0.5 mL) and DMF (0.5 mL) and the mixture is heated to 75° C. After stirring for 4.5 h, THF is removed under reduced pressure and the residue is partitioned between ethyl acetate and dilute brine. The combined organic layers are washed with dilute sodium sulfate/brine and the aqueous layer is backwashed with ethyl acetate. The combined organic layers are dried over magnesium sulfate and concentrated under reduced pressure to give a residue. A mixture of the resulting residue, lithium bromide (0.0428 g, 0.49 mmol), lithium carbonate (0.0311 g, 0.42 mmol) and DMF (1 mL) is heated at 120° C. for two hours. The mixture is partitioned between ethyl acetate and brine. The combined organic layers are dried over sodium sulfate and concentrated to an oil. The oil is chromatographed on silica gel (20 mL) using ethyl acetate/heptane (5/95 and 10/90) to give 0.0460 g (71%) of the title compound; MS (ESI−) for C19H13F2NO m/z 308.1 (M−H)−; IR (drift) 1580, 1508, 1461, 1434, 1329, 1274, 1242, 1235, 1221, 1157, 1129, 907, 788, 755, 732 cm−1; 1H NMR (CDCl3) δ5.37 5.64, 6.60, 6.94, 7.14, 7.28, 8.10. Anal. Calcd for C19H13F2NO: C, 73.78; H, 4.24; N, 4.53. Found: C, 72.52; H, 4.18; N, 4.37.

reactant | Pyridinium bromide perbromide | 0.27 mmol | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | 8-fluoro-9-(4-fluorobenzyl)-1,2,3,9-tetrahydro-4H-carbazol-4-one | FC=1C=CC=C2C=3C(CCCC3N(C12)CC1=CC=C(C=C1)F)=O | C19H15F2NO
reactant | lithium bromide | 0.49 mmol, 0.0428 g | [Br-].[Li+]
reactant | lithium carbonate | 0.42 mmol, 0.0311 g | C([O-])([O-])=O.[Li+].[Li+]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 8-Fluoro-9-(4-fluorobenzyl)-9H-carbazol-4-ol | 0.0460 g, 71% | FC=1C=CC=C2C=3C(=CC=CC3N(C12)CC1=CC=C(C=C1)F)O | C19H13F2NO
